US05661155
A solution of diethyl N-(4-(((1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)methyl)amino)-2-fluorobenzoyl)-L-glutamate (2.3 g, 4.1 mmol) in ethanol (25 ml) and 0.2N NaOH (100 ml) was stirred under nitrogen at room temperature for 3 hours. The solution was adjusted to pH 7 with 1N HCl and reduced in volume under vacuum to remove the ethanol. The product was precipitated by acidifying the solution with 1N HCl to pH 3 with stirring under nitrogen. The suspension was stirred 15 minutes, filtered under nitrogen, washed with water, pressed with a sheet of latex to remove excess water, and dried under high vacuum to give N-(4-(((1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)methyl)amino)-2-fluorobenzo-yl)-L-glutamic acid as a white solid (2.1 g). 1H NMR (DMSO-d6,300 MHz) δ: 1.82-2.12 (m, 2H, glu CH2), 2.29 (t, J=7 Hz, 2H, glu CH2), 2.43 (s, 3H, C3 -CH3), 4.32-4.42 (m, 1H, glu CH), 4.57 (d, J=6 Hz, 2H, C9 -CH2), 6.39 (dd, J=15,2 Hz, 1H, Ar), 6.53 (dd, J=9,2 Hz, 1H, Ar), 7.30 (t, J=6 Hz, 1H, ArNH), 7.47 (dd, J=9,9 Hz, 1H, Ar), 7.59(d, J=9 Hz, 1H, Ar), 7.61(dd, J=8, 2 Hz, 1H, Ar), 7.73 (t, J=7 Hz, 1H, glu NH), 8.01 (d, J=8 Hz, 1H, Ar), 8.22 (d, J=9 Hz, 1H, Ar.), 9.85 (s, 1H, Ar), 12.42 (br s, 2H, CO2H's), 12.53 (s, 1H, N2H). Anal. Calculated for C26H23FN4O6.3/2-H2O.1/3 NaCl: C, 56.49; H, 4.74; N, 10.14; C1, 2.12 ; Na, 1.37. Found: C, 56.48; H, 4.64; N, 10.20; Cl, 2.01; Na, 1.30.

reactant | diethyl N-(4-(((1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)methyl)amino)-2-fluorobenzoyl)-L-glutamate | 4.1 mmol, 2.3 g | CC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)CNC3=CC(=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C3)F | C30H31FN4O6
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | NaOH | 0.2N, 100 ml | [OH-].[Na+]
product | N-(4-(((1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)methyl)amino)-2-fluorobenzo-yl)-L-glutamic acid | 2.1 g | CC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)CNC3=CC(=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C3)F | C26H23FN4O6
